US07612114B2
Synthesized from 2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenyl]amine (477 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenyl]amine (431 mg). This compound (429 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (371 mg).

reactant | 2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenylamine | COC=1C=CC2=C(CCCC(C2)C2=C(C=CC=C2)N)C1 | C18H21NO
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenyl]amine | 477 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC=C2)C2CC3=C(CCC2)C=C(C=C3)OC)C=C1 | C33H42N2O2
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phenyl]amine | 431 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC=C2)C2CC3=C(CCC2)C=C(C=C3)OC)CC)C=C1 | C35H46N2O2
